US04613680
Preparation of 3-methyl-3-butenyl Angelate
A mixture of 20.0 g. of methyl angelate, 22.65 g. of 3-methyl-3-butenyl alcohol, 100 ml. of toluene and 0.8 g. of dioctyltin laurate was reacted under the same conditions as in Example 6. The reaction mixture was subjected to single distillation to obtain 39.5 g. of a distillate boiling at 104° C. (32 mmHg).

reactant | methyl angelate | C(\C(\C)=C/C)(=O)OC | C6H10O2
reactant | 3-methyl-3-butenyl alcohol | CC(CCO)=C | C5H10O
reactant | dioctyltin laurate | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCC)[Sn+2]CCCCCCCC.C(CCCCCCCCCCC)(=O)[O-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-methyl-3-butenyl Angelate | C(\C(\C)=C/C)(=O)OCCC(=C)C | C10H16O2
